US04070496
Iso-butyl sec-butyl phosphinyl chloride prepared as in Part A and n-heptyl magnesium bromide were allowed to react together as in Preparative Example A to give iso-butyl sec-butyl n-heptyl phosphine oxide bp. 123°-5°/0.004 mm.

reactant | Iso-butyl sec-butyl phosphinyl chloride | C(C(C)C)P(=O)(C(C)CC)Cl | C8H18ClOP
reactant | n-heptyl magnesium bromide | C(CCCCCC)[Mg]Br
product | iso-butyl sec-butyl n-heptyl phosphine oxide | C(C(C)C)P(CCCCCCC)(C(C)CC)=O | C15H33OP
